US05635510
20.4.2 Resolution of (+)-3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid salt
Combine (R, R)-di-p-anisoyltartaric acid (354.1 g, 846 mmol) and aqueous 12M hydrochloric acid solution (70.5 mL, 846 mmol) in water/methanol (4.4 L)/(4.4 L). Heat to reflux. Add dropwise over 45 minutes, a solution of 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (440 g, 1693 mmol) in methanol (3 L). After 20 minutes, slowly cool to ambient temperature. Filter the solid that forms and rinse with water to give the title compound: mp; 201°-204° C. (dec). Analysis by HPLC, as described in Example 20.4.1 indicates an enantiomeric excess of 97.5%, (97.5% ee).

reactant | (R, R)-di-p-anisoyltartaric acid | 846 mmol, 354.1 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | hydrochloric acid | 846 mmol, 12M, 70.5 mL | Cl | ClH
reactant | 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 1693 mmol, 440 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
solvent | water methanol | O.CO
solvent | methanol | 3 L | CO | CH4O
product | (+)-3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H15Cl2NO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;13-10-2-1-9(7-11(10)14)12(4-6-16)3-5-15-8-12/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,7,15-16H,3-6,8H2/t19-,20-;/m1./s1
